### PR TITLE
Imp minus

### PR DESCRIPTION
**Pull request by notiho**
Definition of IMP-, a reduced version of IMP. We give small and big step semantics with time for it and prove their equivalence.

### CODE REVIEW

**Comment by notiho** [comment]
closes #13

File: IMP-/AExp.thy [hunk 1]
```diff
@@ -0,0 +1,51 @@
+(* Authors: Bilel Ghorbel, Florian Kessler
```
Comment (maxhaslbeck) [inline IMP-/AExp.thy]: adhere to the [theory documentation conventions](https://isabelle.systems/conventions/theory_documentation.html) in all theories.

File: IMP-/Big_StepT.thy [hunk 2]
```diff
@@ -0,0 +1,176 @@
+ (*
+    Authors: Bilel Ghorbel, Florian Kessler
+    Based on the Big step semantics definition  with time of IMP
+ *)
+section "Big step semantics of IMP-"
+theory Big_StepT imports Main Com begin
+
```
Comment (maxhaslbeck) [inline IMP-/Big_StepT.thy:4]: add a short description what this theory contains.

File: IMP-/Big_StepT.thy [hunk 3]
```diff
@@ -0,0 +1,176 @@
...
+subsection "Big step semantics definition:"
+
+text "In IMP- Branching is only based on whether a variable's value equals 0."
+
+inductive
+  big_step_t :: "com \<times> state \<Rightarrow> nat \<Rightarrow> state \<Rightarrow> bool"  ("_ \<Rightarrow> _ \<Down> _" 55)
```
Comment (maxhaslbeck) [inline IMP-/Big_StepT.thy]: put your notation into a bunlde, see [notation conventions](https://isabelle.systems/conventions/notation.html)
I'm not nostalgic about that notation mabye `_ =>\<bsup>_\<esup> _` is nicer?

File: IMP-/Big_StepT.thy [hunk 4]
```diff
@@ -0,0 +1,176 @@
...
+thm ex[simplified]
+
+
+values "{(t, x). big_step_t (SKIP, \<lambda>_. 0) x t}"
+
+values "{map t [''x''] |t x. (SKIP, <''x'' := 42>) \<Rightarrow> x \<Down> t}"
+
+values "{map t [''x''] |t x. (''x'' ::=A (N 2), <''x'' := 42>) \<Rightarrow> x \<Down> t}"
+
+values "{(map t [''x''],x) |t x. (WHILE ''x''\<noteq>0 DO ''x''::= Sub (V ''x'') (N 1),<''x'':=5>) \<Rightarrow> x \<Down> t }"
```
Comment (maxhaslbeck) [inline IMP-/Big_StepT.thy]: you can put such examples into a `experiment begin ... end` end block, to mark that this is an example and not pollute the namespace with lemmas named `ex`.

File: IMP-/Big_StepT.thy [hunk 5]
```diff
@@ -0,0 +1,176 @@
...
+
+text "Introduction rules:"
+declare big_step_t.intros [intro]
+
+text "Induction rules with pair splitting"
+lemmas big_step_t_induct = big_step_t.induct[split_format(complete)]
+
+subsection "Rule inversion"
+inductive_cases Skip_tE[elim!]: "(SKIP,s) \<Rightarrow> x \<Down> t"
+thm Skip_tE
```
Comment (maxhaslbeck) [inline IMP-/Big_StepT.thy]: remove or minimize usage of diagnostic commands like `thm`, `value`

File: IMP-/Big_StepT.thy [hunk 6]
```diff
@@ -0,0 +1,176 @@
...
+proof -
+  from assms show ?thesis
+  proof cases
+  case (IfTrue x)
+  then show ?thesis by blast
+next
+  case (IfFalse x)
+  then show ?thesis by blast
+qed
+qed
```
Comment (maxhaslbeck) [inline IMP-/Big_StepT.thy]: use proper indentation, in Isabelle/JEdit  `Edit>Indent` has an automatic identation, that acts on the selected lines, it works reasonably well.
this proof can be shortend `using assms apply(cases x) by auto`

File: IMP-/Big_StepT.thy [hunk 7]
```diff
@@ -0,0 +1,176 @@
...
+    proof (goal_cases)
+      case 1
+      from 1(7) show ?case apply(safe) 
+        apply(erule While_tE)
+          using 1(1-6) apply fast
+          using 1(1-6) apply (simp)
+        apply(erule While_tE)
+          using 1(1-6) apply fast
+          using 1(1-6) by (simp)
+      qed
```
Comment (maxhaslbeck) [inline IMP-/Big_StepT.thy]: you can use the `subgoal` command to structure your apply style proofs, and make them more robust.
e.g. `subgoal     apply(elim Skip_tE) by simp`
try to avoid goal_cases
you can name your subgoal premises and variables with `subgoal premises p for a b c`

File: IMP-/Big_StepT.thy [hunk 8]
```diff
@@ -0,0 +1,176 @@
...
+lemma ASSnot: "( \<not> (x ::= e, s) \<Rightarrow> p \<Down> t ) = (p\<noteq>Suc(Suc 0) \<or> t\<noteq>s(x := aval e s))"
+  apply auto done
+
+lemma If_THE_True: "Suc (THE n. \<exists>a. (c1, s) \<Rightarrow> n \<Down> a) =  (THE n. \<exists>a. (IF b \<noteq>0 THEN c1 ELSE c2, s) \<Rightarrow> n \<Down> a)"
+     if T: "s b \<noteq> 0" and c1_t: "terminates (c1,s)" for s l
+proof -
+  from c1_t obtain p t where a: "(c1, s) \<Rightarrow> p \<Down> t" by blast
+  with T have b: "(IF b \<noteq>0 THEN c1 ELSE c2, s) \<Rightarrow> p+1 \<Down> t"  using IfTrue by simp
+  from a bigstepT_the_cost have "(THE n. \<exists>a. (c1, s) \<Rightarrow> n \<Down> a) = p" by simp
+moreover
```
Comment (maxhaslbeck) [inline IMP-/Big_StepT.thy]: indentation

File: IMP-/Com.thy [hunk 9]
```diff
@@ -0,0 +1,19 @@
+(*
+   Authors: Bilel Ghorbel, Florian Kessler
+   Based on the syntax definition of IMP
+*)
```
Comment (maxhaslbeck) [inline IMP-/Com.thy]: follow conventions

File: IMP-/Rel_pow.thy [hunk 10]
```diff
@@ -0,0 +1,37 @@
+ (*
+    Authors: Bilel Ghorbel, Florian Kessler
+ *)
+section "Inductive definition of relation power"
+theory Rel_pow imports Main begin
```
Comment (maxhaslbeck) [inline IMP-/Rel_pow.thy]: theory names should have [capitalized Snake_Case](https://isabelle.systems/conventions/sessions.html)

File: IMP-/Small_StepT.thy [hunk 11]
```diff
@@ -0,0 +1,179 @@
+ (*
+    Authors: Bilel Ghorbel, Florian Kessler
+    Based on the Big step semantics definition  with time of IMP
+ *)
+section "Small step semantics of IMP- "
+
+subsection "Small step semantics definition"
+theory Small_StepT  imports Main Big_StepT Rel_pow begin
```
Comment (maxhaslbeck) [inline IMP-/Small_StepT.thy]: the small step semantics feels more natural than the bigstep semantics now. 
Maybe Bigstep should import smallstep, as it is now modeled such that it is equivalent to smallstep (e.g. assign costs 2).
and equivalence proof should be at the end of Bigstep or in an extra theory.

maybe even rename the theory names to `"Big_Step_Time"` , and Small_Step_Time, ( or even `IMP-_Big_Step_Time` but I don't like the IMP- )

File: IMP-/Small_StepT.thy [hunk 12]
```diff
@@ -0,0 +1,179 @@
...
+IfFalse: "s b = 0 \<Longrightarrow> (IF b \<noteq>0  THEN c\<^sub>1 ELSE c\<^sub>2,s) \<rightarrow> (c\<^sub>2,s)" |
+
+WhileTrue:   "s b \<noteq> 0 \<Longrightarrow> (WHILE b\<noteq>0 DO c,s) \<rightarrow>
+            (c ;; WHILE b \<noteq>0 DO c,s)" |
+WhileFalse:   "s b = 0 \<Longrightarrow> (WHILE b\<noteq>0 DO c,s) \<rightarrow>
+            (SKIP,s)"
+
+subsection "Transitive Closure"
+abbreviation
+  small_step_pow :: "com * state \<Rightarrow> nat \<Rightarrow> com * state \<Rightarrow> bool" ("_ \<rightarrow>* _ \<down> _" 55)
```
Comment (maxhaslbeck) [inline IMP-/Small_StepT.thy]: the `→* t` looks weird to me.
what about `notation small_step_pow ("_ →⇗_⇖ _" 55)`
that's want one wants to read it, but maybe it is inconvenient to write.
maybe switch the bigstep notation to `notation big_step_t ("_ ⇒⇗_⇖ _" 55)` to be consistent?

File: IMP-/Rel_pow.thy [hunk 13]
```diff
@@ -0,0 +1,37 @@
...
+
+inductive rel_pow:: "('a \<Rightarrow> 'a \<Rightarrow> bool) \<Rightarrow> nat \<Rightarrow> 'a \<Rightarrow> 'a \<Rightarrow> bool" for r where
+refl: "rel_pow r 0 x x"|
+step:"r x y \<Longrightarrow> rel_pow r n y z \<Longrightarrow> rel_pow r (Suc n) x z"
+hide_fact (open) refl step
```
Comment (maxhaslbeck) [inline IMP-/Rel_pow.thy]: can you explain why you defined it yourself instead of using what is there?

File: IMP-/Small_StepT.thy [hunk 14]
```diff
@@ -0,0 +1,179 @@
...
+done
+
+section "Equivalence with big-step semantics"
+declare rel_pow_intros[simp,intro]
+text "sequence property"
+lemma star_seq2: "(c1,s) \<rightarrow>* t \<down> (c1',s') \<Longrightarrow> (c1;;c2,s) \<rightarrow>* t  \<down> (c1';;c2,s')"
+proof(induction t arbitrary: c1 c1' s s')
+  case 0
+  then show ?case by auto
+next
```
Comment (maxhaslbeck) [inline IMP-/Small_StepT.thy]: for easy cases that are solved by auto, you can leave the case out and close the proof with `qed auto`, which will use the tactic on the remaining cases

File: IMP-/Small_StepT.thy [hunk 15]
```diff
@@ -0,0 +1,179 @@
...
+  obtain x' y' where suc_def:"x =Suc x'" "y = Suc y'"
+    by (meson WhileTrue.hyps(2) WhileTrue.hyps(3) bigstep_progress gr0_implies_Suc)
+  have "(?w, s1) \<rightarrow>*1 \<down> (c ;; ?w, s1)" using WhileTrue by auto
+  moreover have "(c ;; ?w, s1)\<rightarrow>* x' \<down> (SKIP ;; ?w, s2)" 
+    using WhileTrue by (simp add: suc_def star_seq2) 
+  moreover have "(SKIP ;; ?w, s2) \<rightarrow>* 1 \<down>(?w, s2)" by auto
+  moreover have "(?w, s2) \<rightarrow>* y' \<down> (SKIP, s3)" using WhileTrue  \<open>y = Suc y'\<close> by blast
+  ultimately have "(?w, s1) \<rightarrow>* 1 + x' + 1 + y'\<down> (SKIP, s3)" by (meson rel_pow_sum) 
+  moreover have "t' = Suc (Suc (x' + y')) " using WhileTrue suc_def by auto 
+  thus ?case  using calculation by simp
```
Comment (maxhaslbeck) [inline IMP-/Small_StepT.thy]: `ultimately show ?case by simp`

File: IMP-/Small_StepT.thy [hunk 16]
```diff
@@ -0,0 +1,179 @@
...
+lemma big_to_small: "(c, s) \<Rightarrow> Suc t \<Down> s' \<Longrightarrow> (c, s) \<rightarrow>* t \<down> (SKIP,s')"
+  using big_to_small_helper by blast
+
+text "from small to big semantics"
+lemma small1_big_continue:
+  "cs \<rightarrow> cs' \<Longrightarrow> cs' \<Rightarrow> t \<Down> cs'' \<Longrightarrow> cs \<Rightarrow> Suc t \<Down> cs''"
+  apply (induction arbitrary: cs'' t rule:small_step.induct )
+  apply auto
+  apply fastforce
+  done
```
Comment (maxhaslbeck) [inline IMP-/Small_StepT.thy]: nice

File: IMP-/Small_StepT.thy [hunk 17]
```diff
@@ -0,0 +1,179 @@
...
+
+lemma small_to_big :
+ "cs \<rightarrow>* t \<down> (SKIP,s') \<Longrightarrow> cs \<Rightarrow> Suc t \<Down> s' "
+  apply(induction t arbitrary:cs s')
+   apply auto[1]
+  using small1_big_continue by blast
+
+text "Equivalence statement"
+lemma equiv_small_big_pair:
+ "(c,s) \<rightarrow>* t \<down> (SKIP,s') \<longleftrightarrow> (c,s) \<Rightarrow> Suc t \<Down> s' "
```
Comment (maxhaslbeck) [inline IMP-/Small_StepT.thy]: can you add a comment why it is off by one? you are counting steps and configurations.

**Review by maxhaslbeck — COMMENTED** [review]
good work, here are only some nitpicks on notation, sectioning and writing proofs
- I'd suggest to rename/restructure the theories (bigstep imports smallstep)
- I have a suggestion for different notation,
- put notation into a bundle
- improve documentation and sectioning

File: IMP-/Big_StepT.thy (hunk 3 above)
Comment (notiho) [reply IMP-/Big_StepT.thy]: What is the suggested way to use the syntax in the inductive definition itself if we want to put it in a bundle? The way I came up with is to delete it immediately after the definition with no_notation, and then redefine it again in the bundle. However, this seems kinda hacky.

File: IMP-/Big_StepT.thy (hunk 4 above)
Comment (BilelGho) [reply IMP-/Big_StepT.thy]: done

File: IMP-/AExp.thy (hunk 1 above)
Comment (BilelGho) [reply IMP-/AExp.thy]: done

File: IMP-/Big_StepT.thy (hunk 2 above)
Comment (BilelGho) [reply IMP-/Big_StepT.thy:4]: done

File: IMP-/Big_StepT.thy (hunk 5 above)
Comment (BilelGho) [reply IMP-/Big_StepT.thy]: could We just add the whole list at the end? 
like : thm Skip_tE, Seq_tE , ... ?

Comment (BilelGho) [reply IMP-/Big_StepT.thy]: done

File: IMP-/Big_StepT.thy (hunk 4 above)
Comment (BilelGho) [reply IMP-/Big_StepT.thy]: done

File: IMP-/Big_StepT.thy (hunk 6 above)
Comment (BilelGho) [reply IMP-/Big_StepT.thy]: shortened

File: IMP-/Big_StepT.thy (hunk 7 above)
Comment (BilelGho) [reply IMP-/Big_StepT.thy]: done

File: IMP-/Com.thy (hunk 9 above)
Comment (BilelGho) [reply IMP-/Com.thy]: done

File: IMP-/Rel_pow.thy (hunk 10 above)
Comment (BilelGho) [reply IMP-/Rel_pow.thy]: done

File: IMP-/Small_StepT.thy (hunk 11 above)
Comment (BilelGho) [reply IMP-/Small_StepT.thy]: what about making the equivalence in a 3rd theory that imports both ? too much ?

File: IMP-/Small_StepT.thy (hunk 12 above)
Comment (BilelGho) [reply IMP-/Small_StepT.thy]: I have to admit. One of the reasons we didn't choose this notation, is that I personally didn't know how to type it! How silly of me! But I totally agree it is the one making most sense.

Comment (BilelGho) [reply IMP-/Small_StepT.thy]: done

File: IMP-/Rel_pow.thy (hunk 13 above)
Comment (BilelGho) [reply IMP-/Rel_pow.thy]: If you're meaning the relation power as defined `HOL.Transitive_Closure.` 
Then it's because (and I believe this is also the reason why the IMP theory defined its own Star theory instead of using the definition in HOL) that Isabelle's value command wouldn't be able to compute the predicates involving `small_step_pow`. It requires code to be generated. A thing that seems not to be supported in HOL definition, since it is not inductive.

I believe this is a really useful feature, not only would've that helped us through debugging, but I guess it would help us while working on the next issues to be able to compute some examples.

File: IMP-/Small_StepT.thy (hunk 14 above)
Comment (BilelGho) [reply IMP-/Small_StepT.thy]: done

File: IMP-/Small_StepT.thy (hunk 15 above)
Comment (BilelGho) [reply IMP-/Small_StepT.thy]: done

File: IMP-/Big_StepT.thy (hunk 3 above)
Comment (maxhaslbeck) [reply IMP-/Big_StepT.thy]: defining a bundle does not unbundle it automatically. so you can define the constant, while already using its notation, 
then later add the bundles:
```
bundle imp_minus_syntax
begin
  notation big_step_t  ("_ ⇒ _ ⇓ _" 55)
  notation small_step_pow("_ →* _ ↓ _" 55)
end

term "x →* t ↓ y"

bundle no_imp_minus_syntax
begin
  no_notation big_step_t  ("_ ⇒ _ ⇓ _" 55)
  no_notation small_step_pow("_ →* _ ↓ _" 55)
end

term "x →* t ↓ y"

unbundle no_imp_minus_syntax
term "x →* t ↓ y"

unbundle imp_minus_syntax
term "x →* t ↓ y"
```

Bundles are documented in [isar-ref §5.3](https://isabelle.in.tum.de/dist/doc/isar-ref.pdf). They can be either activated in a local theory context (unbundle), in an Isar proof body (include), in a proof refinement (including), and in a context specification (includes) (notably for context and long theorem statements).

File: IMP-/Rel_pow.thy (hunk 13 above)
Comment (maxhaslbeck) [reply IMP-/Rel_pow.thy]: okay. if you like you can add a short comment to that theory explaining exactly that.

File: IMP-/Big_StepT.thy (hunk 3 above)
Comment (notiho) [reply IMP-/Big_StepT.thy]: Ok thank you we have modified it accordingly. 
One more question: how should we deal with syntax introduced by the `syntax` command? If I understand correctly, `bundle` requires its contents to be "local theory specifications", which `notation` is, but `syntax` is not. When trying to put `syntax` inside a `bundle`, Isabelle gives "Bad context for command "syntax"" as an error.

File: IMP-/Small_StepT.thy (hunk 17 above)
Comment (notiho) [reply IMP-/Small_StepT.thy]: done

File: IMP-/Big_StepT.thy (hunk 8 above)
Comment (notiho) [reply IMP-/Big_StepT.thy]: done

File: IMP-/Small_StepT.thy (hunk 11 above)
Comment (notiho) [reply IMP-/Small_StepT.thy]: I moved it into a new theory now

File: IMP-/Big_StepT.thy (hunk 3 above)
Comment (maxhaslbeck) [reply IMP-/Big_StepT.thy]: you are right, `syntax`commands can not be included in a bundle.

Comment (maxhaslbeck) [reply IMP-/Big_StepT.thy]: bigsteps notation is not yet in a bundle

Comment (notiho) [reply IMP-/Big_StepT.thy]: Are you sure? I created a bundle for big step notation in a5799e3

Comment (maxhaslbeck) [reply IMP-/Big_StepT.thy]: oh, sry I overlooked that
